* Coriolis Structural SPICE Driver
* Generated on Jan 23, 2026, 19:09
* Cell/Subckt "chip".
* 
* INTERF vss
* INTERF vdd
* INTERF reset
* INTERF iovss
* INTERF iovdd
* INTERF clk
* INTERF a[15]
* INTERF a[14]
* INTERF WE
* INTERF RDY
* INTERF NMI
* INTERF IRQ
* INTERF DO[7]
* INTERF DO[6]
* INTERF DO[5]
* INTERF DO[4]
* INTERF DO[3]
* INTERF DO[2]
* INTERF DO[1]
* INTERF DO[0]
* INTERF DI[7]
* INTERF DI[6]
* INTERF DI[5]
* INTERF DI[4]
* INTERF DI[3]
* INTERF DI[2]
* INTERF DI[1]
* INTERF DI[0]
* INTERF A[9]
* INTERF A[8]
* INTERF A[7]
* INTERF A[6]
* INTERF A[5]
* INTERF A[4]
* INTERF A[3]
* INTERF A[2]
* INTERF A[13]
* INTERF A[12]
* INTERF A[11]
* INTERF A[10]
* INTERF A[1]
* INTERF A[0]

* Terminal models (aka standard cells) used througout all the hierarchy.
.include sg13g2_IOPadIn_full.spi
.include sg13g2_IOPadOut16mA_full.spi
.include sg13g2_IOPadIOVss_full.spi
.include sg13g2_IOPadVss_full.spi
.include sg13g2_IOPadVdd_full.spi
.include sg13g2_IOPadIOVdd_full.spi
.include dff_x1.spi
.include and21nor_x0.spi
.include and3_x1.spi
.include and4_x1.spi
.include nand4_x0.spi
.include nand3_x0.spi
.include inv_x0.spi
.include or2_x1.spi
.include or3_x1.spi
.include or21nand_x0.spi
.include nand2_x0.spi
.include mux2_x1.spi
.include and2_x1.spi
.include nor2_x0.spi
.include or4_x1.spi
.include nor4_x0.spi
.include nor3_x0.spi
.include nexor2_x0.spi
.include xor2_x0.spi

* Non-terminal models (part of the user's design hierarchy).
.include corona.spi
.include Arlet6502.spi

.subckt chip 0 1 2 3 4 43 44 45 46 47 48 49 50 51 52 53 54 55 56 57 58 59 60 61 62 63 64 65 66 67 68 69 70 71 72 73 74 75 76 77 78 79
* NET     0 = vss
* NET     1 = vdd
* NET     2 = reset
* NET     3 = iovss
* NET     4 = iovdd
* NET     5 = internal_reset_from_pad
* NET     6 = internal_clk_from_pad
* NET     7 = internal_WE_to_pad
* NET     8 = internal_RDY_from_pad
* NET     9 = internal_NMI_from_pad
* NET    10 = internal_IRQ_from_pad
* NET    11 = internal_DO_to_pad[7]
* NET    12 = internal_DO_to_pad[6]
* NET    13 = internal_DO_to_pad[5]
* NET    14 = internal_DO_to_pad[4]
* NET    15 = internal_DO_to_pad[3]
* NET    16 = internal_DO_to_pad[2]
* NET    17 = internal_DO_to_pad[1]
* NET    18 = internal_DO_to_pad[0]
* NET    19 = internal_DI_from_pad[7]
* NET    20 = internal_DI_from_pad[6]
* NET    21 = internal_DI_from_pad[5]
* NET    22 = internal_DI_from_pad[4]
* NET    23 = internal_DI_from_pad[3]
* NET    24 = internal_DI_from_pad[2]
* NET    25 = internal_DI_from_pad[1]
* NET    26 = internal_DI_from_pad[0]
* NET    27 = internal_A_to_pad[9]
* NET    28 = internal_A_to_pad[8]
* NET    29 = internal_A_to_pad[7]
* NET    30 = internal_A_to_pad[6]
* NET    31 = internal_A_to_pad[5]
* NET    32 = internal_A_to_pad[4]
* NET    33 = internal_A_to_pad[3]
* NET    34 = internal_A_to_pad[2]
* NET    35 = internal_A_to_pad[15]
* NET    36 = internal_A_to_pad[14]
* NET    37 = internal_A_to_pad[13]
* NET    38 = internal_A_to_pad[12]
* NET    39 = internal_A_to_pad[11]
* NET    40 = internal_A_to_pad[10]
* NET    41 = internal_A_to_pad[1]
* NET    42 = internal_A_to_pad[0]
* NET    43 = clk
* NET    44 = a[15]
* NET    45 = a[14]
* NET    46 = WE
* NET    47 = RDY
* NET    48 = NMI
* NET    49 = IRQ
* NET    50 = DO[7]
* NET    51 = DO[6]
* NET    52 = DO[5]
* NET    53 = DO[4]
* NET    54 = DO[3]
* NET    55 = DO[2]
* NET    56 = DO[1]
* NET    57 = DO[0]
* NET    58 = DI[7]
* NET    59 = DI[6]
* NET    60 = DI[5]
* NET    61 = DI[4]
* NET    62 = DI[3]
* NET    63 = DI[2]
* NET    64 = DI[1]
* NET    65 = DI[0]
* NET    66 = A[9]
* NET    67 = A[8]
* NET    68 = A[7]
* NET    69 = A[6]
* NET    70 = A[5]
* NET    71 = A[4]
* NET    72 = A[3]
* NET    73 = A[2]
* NET    74 = A[13]
* NET    75 = A[12]
* NET    76 = A[11]
* NET    77 = A[10]
* NET    78 = A[1]
* NET    79 = A[0]

xrdy 0 1 47 8 3 4 sg13g2_IOPadIn_full
xa_12 0 1 75 3 4 38 sg13g2_IOPadOut16mA_full
xp_iovss_3 0 1 3 4 sg13g2_IOPadIOVss_full
xp_vss_3 0 1 3 4 sg13g2_IOPadVss_full
xdi_5 0 1 60 21 3 4 sg13g2_IOPadIn_full
xdo_7 0 1 50 3 4 11 sg13g2_IOPadOut16mA_full
xa_7 0 1 68 3 4 29 sg13g2_IOPadOut16mA_full
xirq 0 1 49 10 3 4 sg13g2_IOPadIn_full
xa_13 0 1 74 3 4 37 sg13g2_IOPadOut16mA_full
xp_iovss_2 0 1 3 4 sg13g2_IOPadIOVss_full
xp_vss_2 0 1 3 4 sg13g2_IOPadVss_full
xdi_4 0 1 61 22 3 4 sg13g2_IOPadIn_full
xdo_6 0 1 51 3 4 12 sg13g2_IOPadOut16mA_full
xa_6 0 1 69 3 4 30 sg13g2_IOPadOut16mA_full
xreset 0 1 2 5 3 4 sg13g2_IOPadIn_full
xa_10 0 1 77 3 4 40 sg13g2_IOPadOut16mA_full
xp_vss_1 0 1 3 4 sg13g2_IOPadVss_full
xp_iovss_1 0 1 3 4 sg13g2_IOPadIOVss_full
xdi_7 0 1 58 19 3 4 sg13g2_IOPadIn_full
xdo_5 0 1 52 3 4 13 sg13g2_IOPadOut16mA_full
xa_5 0 1 70 3 4 31 sg13g2_IOPadOut16mA_full
xclk 0 1 43 6 3 4 sg13g2_IOPadIn_full
xnmi 0 1 48 9 3 4 sg13g2_IOPadIn_full
xa_11 0 1 76 3 4 39 sg13g2_IOPadOut16mA_full
xp_vss_0 0 1 3 4 sg13g2_IOPadVss_full
xp_iovss_0 0 1 3 4 sg13g2_IOPadIOVss_full
xdi_6 0 1 59 20 3 4 sg13g2_IOPadIn_full
xdo_4 0 1 53 3 4 14 sg13g2_IOPadOut16mA_full
xa_4 0 1 71 3 4 32 sg13g2_IOPadOut16mA_full
xdi_1 0 1 64 25 3 4 sg13g2_IOPadIn_full
xp_vdd_1 0 1 3 4 sg13g2_IOPadVdd_full
xp_iovdd_1 0 1 3 4 sg13g2_IOPadIOVdd_full
xdo_3 0 1 54 3 4 15 sg13g2_IOPadOut16mA_full
xa_3 0 1 72 3 4 33 sg13g2_IOPadOut16mA_full
xwe 0 1 46 3 4 7 sg13g2_IOPadOut16mA_full
xdi_0 0 1 65 26 3 4 sg13g2_IOPadIn_full
xcorona 0 1 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19 20 21 22 23 24 25 26 27 28 29 30 31 32 33 34 35 36 37 38 39 40 41 42 corona
xp_vdd_0 0 1 3 4 sg13g2_IOPadVdd_full
xp_iovdd_0 0 1 3 4 sg13g2_IOPadIOVdd_full
xdo_2 0 1 55 3 4 16 sg13g2_IOPadOut16mA_full
xa_2 0 1 73 3 4 34 sg13g2_IOPadOut16mA_full
xa_14 0 1 45 3 4 36 sg13g2_IOPadOut16mA_full
xa_9 0 1 66 3 4 27 sg13g2_IOPadOut16mA_full
xdi_3 0 1 62 23 3 4 sg13g2_IOPadIn_full
xp_iovdd_3 0 1 3 4 sg13g2_IOPadIOVdd_full
xp_vdd_3 0 1 3 4 sg13g2_IOPadVdd_full
xdo_1 0 1 56 3 4 17 sg13g2_IOPadOut16mA_full
xa_1 0 1 78 3 4 41 sg13g2_IOPadOut16mA_full
xa_15 0 1 44 3 4 35 sg13g2_IOPadOut16mA_full
xa_8 0 1 67 3 4 28 sg13g2_IOPadOut16mA_full
xdi_2 0 1 63 24 3 4 sg13g2_IOPadIn_full
xp_vdd_2 0 1 3 4 sg13g2_IOPadVdd_full
xp_iovdd_2 0 1 3 4 sg13g2_IOPadIOVdd_full
xdo_0 0 1 57 3 4 18 sg13g2_IOPadOut16mA_full
xa_0 0 1 79 3 4 42 sg13g2_IOPadOut16mA_full
.ends chip
